US08937091B2
Vinyl-4-methoxy phenylcarbinol 8273
p-anisaldehyde (136 mg) was mixed with THF (4 ml) and further mixed with vinylmagnesium bromide (1 N solution) (4 mL), followed by stirring for 12 hours to obtain the title compound (195 mg).

reactant | p-anisaldehyde | 136 mg | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | vinylmagnesium bromide | 1 N, 4 mL | C(=C)[Mg]Br
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | Vinyl-4-methoxy phenylcarbinol | 195 mg | C(=C)C(O)C1=CC=C(C=C1)OC | C10H12O2
